US07687515B2
D: 6-(4-Ethoxy-3-trifluoromethyl-phenyl)-2-(3-morpholin-4-yl-propyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
To a flask containing a solution of 6-(4-ethoxy-3-trifluoromethyl-phenyl)-2-(3-morpholin-4-yl-propenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (16 mg) in ethanol was added 5% Pd/C (5 mg) and the vessel purged with hydrogen. The mixture was stirred for 1 h before filtration and purification by preparatice HPLC to afford the title compound. 1H NMR (MeOH) δ 8.32-8.25 (m, 2H) 8.17 (s, 1H) 7.30 (d, 1H) 4.24 (q, 2H) 4.20-3.84 (bm, 4H) 3.65-3.60 (bm, 2H) 3.40 (t, 2H) 3.22 (m, 4H) 2.40 (m, 2H) 1.45 (t, 3H) MS m/z 460.7 (m+1)

reactant | 6-(4-ethoxy-3-trifluoromethyl-phenyl)-2-(3-morpholin-4-yl-propenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 16 mg | C(C)OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=C(N2)C=CCN2CCOCC2)C(F)(F)F | C23H22F3N5O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 6-(4-Ethoxy-3-trifluoromethyl-phenyl)-2-(3-morpholin-4-yl-propyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | C(C)OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=C(N2)CCCN2CCOCC2)C(F)(F)F | C23H24F3N5O2
